US07135466B2
4-Butylphenyl N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}carbamate
4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline (100 mg) was added to toluene (10 ml) and triethylamine (1 ml), and the mixture was heated under reflux to prepare a solution. A solution of triphosgene (151 mg) in methylene chloride was then added thereto, and the mixture was heated under reflux for 10 min. Next, 4-butylphenol (77 mg) was added thereto, and the mixture was further stirred with heating under reflux for 3 hr. A saturated aqueous sodium bicarbonate solution was added to stop the reaction, and the reaction solution was then extracted with chloroform, followed by washing with a 1 N aqueous hydrochloric acid solution, water, and saturated brine in that order. The extract was dried over sodium sulfate and was then concentrated. The residue was purified on a column using chloroform/methanol to give the title compound (130 mg, yield 75%).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C17H16N2O3
reactant | triphosgene | 151 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-butylphenol | 77 mg | C(CCC)C1=CC=C(C=C1)O | C10H14O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Butylphenyl N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}carbamate | 130 mg, yield 75% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(OC1=CC=C(C=C1)CCCC)=O | C28H28N2O5
